* C:\Users\Andrew\Documents\Business\Capstone\Analog-Drum-Machine\Cowbell\Cowbell - Schmitt.asc
R1 N027 N026 33k
R2 0 N027 2.2k
R3 N028 pos 470k
R4 0 N032 100
Q1 N024 N028 N032 0 Q2N3904
C1 N028 N027 10µ
XD1 N020 N024 1n4148
C2 N018 N021 0.0022µ
R6 N018 0 2.2k
C3 N022 N018 .01µ
R7 N019 N022 470k
XU1 0 N022 pos neg N019 uA741
C4 N023 N019 1µ
R8 N023 N025 8.2k
XU2 N025 0 N029 pot_pow Rtot=5K wiper=.5 Rtap=1k tap=0.5
C5 N030 N029 .022µ
R9 N030 0 22k
XU3 N030 out pos neg out uA741
R10 N013 N012 33k
R11 0 N013 2.2k
R12 N014 pos 470k
R13 0 N016 100
Q2 N008 N014 N016 0 Q2N3904
C6 N014 N013 10µ
XD2 N009 N008 1n4148
R15 N020 N010 100k
R14 N010 N009 100k
R16 N017 N009 10k
C7 N018 N017 .0022µ
C8 N019 N018 .0033µ
R5 N021 N020 10k
R17 N011 N010 33k
C9 0 N011 1µ
C10 N010 0 .47µ
XD3 N007 N010 1n4148
R18 N004 N007 1k
R19 N002 N005 22k
R20 N001 N002 4.7k
Q4 N005 N006 0 0 Q2N3904
R21 N003 N006 22k
R22 N006 0 10k
V3 N003 0 PULSE(0 14 1 10u 10u 0.001 1 4)
V4 N001 0 14
V5 0 neg 15
V6 pos 0 15
Q3 N004 N002 N001 0 2N3906
V1 +5V 0 5
C11 N015 0 10n
R23 N012 N015 226k
R24 N026 N031 154k
C12 N031 0 10n
XU4 +5V N015 N012 +5V 0 CD4093B vdd1=5 speed1=1 tripdt1=5e-9
XU5 +5V N031 N026 +5V 0 CD4093B vdd1=5 speed1=1 tripdt1=5e-9
.model NPN NPN
.model PNP PNP
.lib C:\Users\Andrew\Documents\LTspiceXVII\lib\cmp\standard.bjt
.inc Q2N3904.lib
* Special thanks to Kurt James Werner for making the original TR808\nCowbell circuit from the service manual easier to read!
.inc 1n4148.sub
.inc uA741.sub
.tran 0 5 0.5
.wave output1.wav 16 44.1K V(out)
* Trigger Logic
* Oscillator 1 (540Hz)
* Oscillator 2 (800Hz)
.inc 2N3906.lib
* Power\nSupply
* Bias #1
* Bias #2
* VCA#1
* VCA#2
* Bandpass FIlter
* Level \nControl
* Unity Gain Buffer
.lib C:\Users\Andrew\Documents\Business\Capstone\Analog-Drum-Machine\Cowbell\CD4000.lib
.lib potentiometer_standard.lib
.backanno
.end
