* C:\Users\Andrew\Documents\Business\Capstone\Analog-Drum-Machine\Mixer\Mixer.asc
C1 0 vdd! 100n
C2 Out IN 47p
R1 Out IN 5k
R3 IN N002 47k
R4 0 Out 22k
V1 vdd! 0 14V
V2 N002 0 wavefile=Basic_Rock_135.wav
V3 0 -vdd! 14V
XU2 0 IN vdd! -vdd! Out OP4177
C3 0 -vdd! 100n
.tran 0 2s 0
.wav "C:\Users\Andrew\Documents\Business\Capstone\Analog-Drum-Machine\Mixer\Out1.wav" 16 44100 Out
.lib ADI1.lib
.backanno
.end
